US04956366
50 g of 6-hydroxy-4-methoxymethylpyrimidine were heated in 375 ml of phosphorus oxychloride until a clear solution had been produced. The excess phosphorus oxychloride was removed by distillation in vacuo, and the residue was poured into ice-water. Extraction with dichloromethane and drying over sodium sulfate were followed by concentration of the solution in vacuo. 58 g of 6-chloro-4-methoxymethylpyrimidine were obtained as an oil which was used without further purification in the next stage.

reactant | 6-hydroxy-4-methoxymethylpyrimidine | 50 g | OC1=CC(=NC=N1)COC | C6H8N2O2
reactant | phosphorus oxychloride | 375 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-4-methoxymethylpyrimidine | 58 g | ClC1=CC(=NC=N1)COC | C6H7ClN2O
